* C:\Users\Cecilie\Dropbox\ST-375\rapportAfsnit\eProblemloesning\Design\Buffer.asc
V1 Vin 0 0.8418
V2 Vcc 0 5.5
V3 Vdd 0 -5.5
XU1 Vin Vout Vcc Vdd Vout TL081
.tran 1
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\sub\TL081.MOD
.backanno
.end
